US05574064
Synthesis of N1 -[2-(4-cyanophenoxy)-1-methylethyl]-N2 -(2-methoxy-1-methylethyl)oxycarbonyl-L-valinamide (Compound No. 383)
1.0 g of N-methylmorpholine, and subsequently 0.7 g of 2-methoxy-1-methylethyl chloroformate were added to a suspension containing 1.5 g of N1 -[2-(4-cyanophenoxy)-1-methylethyl]-L-valinamide suspended in 150 ml of methylene chloride at -20° C. The mixture was allowed to sit and warm naturally to room temperature and stirred for 2 hours at room temperature. Water was subsequently added to the reaction mixture. After the methylene chloride layer was washed with water, the organic layer was dried over anhydrous magnesium sulfate and then the methylene chloride was removed under reduced pressure. The residue was purified by column chromatography on silica gel, thus obtaining 0.37 g of the desired product in the form of a white plated crystal (yield: 20%).

reactant | N-methylmorpholine | 1.0 g | CN1CCOCC1 | C5H11NO
reactant | 2-methoxy-1-methylethyl chloroformate | 0.7 g | ClC(=O)OC(COC)C | C5H9ClO3
reactant | N1 -[2-(4-cyanophenoxy)-1-methylethyl]-L-valinamide | 1.5 g | C(#N)C1=CC=C(OCC(C)NC([C@@H](N)C(C)C)=O)C=C1 | C15H21N3O2
reactant | Water | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N1 -[2-(4-cyanophenoxy)-1-methylethyl]-N2 -(2-methoxy-1-methylethyl)oxycarbonyl-L-valinamide | 0.37 g | C(#N)C1=CC=C(OCC(C)NC([C@@H](NC(=O)OC(COC)C)C(C)C)=O)C=C1 | C20H29N3O5
